US07026371B2
A one litter, three-neck flask was charged with 348 parts of tolylene diisocyanate (TDI) and heated to 80° C. Then, 260 parts of 2-hydroxyethyl methacrylate (2-HEMA), 0.07 part of tin octylate, and 0.05 part of hydroquinone were dripped while temperature was controlled to 80° C. After dripping, the sample was stirred at 80° C. for 3 hours and taken out. Thus, TDI-2-HEMA adduct was obtained.

reactant | tolylene diisocyanate | CC=1C(=CC(=CC1)N=C=O)N=C=O | C9H6N2O2
reactant | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | TDI 2-HEMA | CC=1C(=CC(=CC1)N=C=O)N=C=O.C(C(=C)C)(=O)OCCO | InChI=1S/C9H6N2O2.C6H10O3/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;1-5(2)6(8)9-4-3-7/h2-4H,1H3;7H,1,3-4H2,2H3
